US07732461B2
(i) 7-(hydroxymethyl)-2,3-dihydro-5(1H)-indolizinone
A solution of 7-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-2,3-dihydro-5(1H)-indolizinone (3.93 g, 14.09 mmol) in tetrahydrofuran (100 ml) was treated with acetic acid (1.61 ml, 28.17 mmol) and tetrabutylammonium fluoride (1M in THF, 21 ml, 21.13 mmol) and stirred at room temperature for 1 h before being evaporated. The residue was chromatographed on silica eluting with 0-20% methanol in dichloromethane to give the desired product (1.87 g, 80%)

reactant | 7-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-2,3-dihydro-5(1H)-indolizinone | 14.09 mmol, 3.93 g | CC(C)(C)[Si](OCC1=CC(N2CCCC2=C1)=O)(C)C | C15H25NO2Si
reactant | acetic acid | 28.17 mmol, 1.61 ml | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | 21.13 mmol, 1M, 21 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 7-(hydroxymethyl)-2,3-dihydro-5(1H)-indolizinone | 1.87 g, 80% | OCC1=CC(N2CCCC2=C1)=O | C9H11NO2
